### PR TITLE
inv_cvg

### PR DESCRIPTION
**Pull request by affeldt-aist**
##### Motivation for this change

needed to develop measure theory

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and put a milestone if possible.

### CODE REVIEW

**Review by zstone1 — APPROVED** [review]

**Review by CohenCyril — CHANGES_REQUESTED** [review]
@affeldt-aist the name was clearly too general `inv_cvg` was far too ambiguous (note that `cvgV` also exist). I gave a suggestion.
I added a few missing helper lemmas, however like many lemmas here, they could and should actually be generalized to filters rather than mere sequences.

**Comment by CohenCyril** [comment]
Also the condition `u i > 0` could be restricted to "near `\oo`"

File: theories/sequences.v [hunk 1]
```diff
@@ -1791,11 +1793,11 @@ move=> f0 g0; rewrite /adde_def !negb_and; apply/andP; split; apply/orP.
 Qed.
 
 Lemma ereal_cvgPpinfty (R : realFieldType) (u_ : (\bar R)^nat) :
-  u_ --> +oo <-> (forall A, (0 < A)%R -> \forall n \near \oo, A%:E <= u_ n).
+  u_ --> +oo <-> (forall A, \forall n \near \oo, A%:E <= u_ n).
```
Comment (CohenCyril) [inline theories/sequences.v:1796]: This is actually neither a generalization nor a weakening. The following are all equivalent:
1. `u --> +oo`
2. `forall A, \forall n \near \oo, A%:E <= u_ n`
3. `\forall A \near +oo, \forall n \near \oo, A%:E <= u_ n`

When faced with 1.:
- as a goal it's actually better to turn it into 3., then you can use `near=> A` and assume `A` to be as large as you need.
- but as an hypothesis, it's better to get 2., so you can apply it to anything without any constraint on `A`

Comment (CohenCyril) [reply theories/sequences.v:1796]: Maybe we should actually write it
```suggestion
  [<-> u_ --> +oo,
         forall A, \forall n \near \oo, A%:E <= u_ n &
         \forall A \near +oo, \forall n \near \oo, A%:E <= u_ n ]
```
?

File: theories/sequences.v [hunk 2]
```diff
@@ -499,8 +499,85 @@ Qed.
 Lemma cvg_has_inf u_ : cvg u_ -> has_inf (u_ @` setT).
 Proof. by move/is_cvgN/cvg_has_sup; rewrite -has_inf_supN image_comp. Qed.
 
+Lemma cvgPpinfty_lt (u_ : R ^nat) :
+  u_ --> +oo%R <-> forall A, \forall n \near \oo, (A < u_ n)%R.
+Proof.
+split=> [uoo A|uB]; last by apply/cvgPpinfty => A; near=> n; apply/ltW; near: n.
+near=> n; rewrite (@lt_le_trans _ _ (A + 1)) ?ltr_addl//.
+by near: n; apply: (cvgPpinfty _).1.
+Unshelve. all: by end_near. Qed.
```
Comment (CohenCyril) [inline theories/sequences.v:508]: Rewrite with `[<-> ..., ... ]` and merge with `cvgPpinfty_lt_near` ?

Comment (CohenCyril) [reply theories/sequences.v:508]: And the same for everything here?

**Comment by CohenCyril** [comment]
It seems that I hijacked this PR.

**Comment by CohenCyril** [comment]
@affeldt-aist I will move my changes to another PR. I'll truncate this one at e61b452d0b7f2b099911c823dfac40c2585adb65 and merge

**Comment by CohenCyril** [comment]
Opened https://github.com/math-comp/analysis/pull/780

**Comment by CohenCyril** [comment]
Rebased

**Review by CohenCyril — APPROVED** [review]

**Comment by CohenCyril** [comment]
Rebase, merge when CI passes
